US03991061
5-Aza-6-loweralkoxytetralone (Tetrahedron Letters No. 1, pp. 87-90, 1966) and 7-aza-6-loweralkoxytetralone (Tetrahedron Letters No. 9, 623, 1975) are suitable precursors for initiating the above indicated reaction Scheme I. In accordance with Scheme I 7-aza-6-methoxytetralone is reacted with glyoxylic acid to provide 7-aza-2-carboxyhydroxymethyl-6-methoxy-1-tetralone and this compound is dehydrated by heating in base to provide 7-aza-6-methoxy-α-carboxymethylidene-1-tetralone. This latter tetralone is reduced with zinc/acetic acid to provide 7-aza-2-carboxymethyl-6-methoxy-1-tetralone and acid catalysed esterification with methanol and sulfuric acid provides 7-aza-6-methoxy-2-methoxycarbonylmethyl-1-tetralone. 7-Aza-6-methoxy-2-methoxycarbonylmethyl-1-tetralone to methyl 8-hydroxy-3-methoxy-5,6,7,8-tetrahydro-2-azanaphthalene-7-acetate by reaction with sodium borohydride and reaction of this product with Pd(C)/anisole provides methyl 3-methoxy-2-azanaphthalene-7-acetate which is alkylated with methyl iodide and base to provide methyl 3-methoxy-2-azanaphthalene-7-α-methylacetate and hydrolysis of this ester provides 3-methoxy-2-azanaphthalene-7 -α -methylacetic acid.

reactant | methyl 8-hydroxy-3-methoxy-5,6,7,8-tetrahydro-2-azanaphthalene-7-acetate | OC1C(CCC=2C=C(N=CC12)OC)CC(=O)OC | C13H17NO4
reactant | sodium borohydride | [BH4-].[Na+]
product | methyl 3-methoxy-2-azanaphthalene-7-acetate | COC=1N=CC2=CC(=CC=C2C1)CC(=O)OC | C13H13NO3
